US09259470B2
2-Methylpyrimidin-4-amine (0.41 g, 3.7 mmol) and (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (0.10 g, 0.19 mmol) were placed in sec-BuOH (1 mL), heated to 110° C. in a sealed tube for 18 hours, then poured into water, and extracted with DCM. The combined organic fractions were dried (MgSO4), filtered, and concentrated to give the crude product, which was purified by column chromatography (500:5 DCM/MeOH to remove impurity, then 500:15 for product) to give (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((2-methylpyrimidin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.034 g, 32% yield).

reactant | 2-Methylpyrimidin-4-amine | 3.7 mmol, 0.41 g | CC1=NC=CC(=N1)N | C5H7N3
reactant | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.19 mmol, 0.10 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29ClFN3O4SSi
reactant | water | O | H2O
solvent | sec-BuOH | 1 mL | C(C)(CC)O | C4H10O
product | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((2-methylpyrimidin-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.034 g, 32% yield | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1=NC(=NC=C1)C)=O | C28H32ClFN6O2Si
